US07915267B2
To a solution of 2-amino-6-methylbenzamide (1.28 g, 8.52 mmol) and triethylamine (1.03 g, 10.2 mmol) in THF (30 mL) was added dropwise ethyl chloroglyoxylate (1.28 g, 9.38 mmol) under ice-cooling, and the mixture was stirred at room temperature for 3 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was suspended in diisopropyl ether-ethanol, and the insoluble material was collected by filtration to give ethyl ((2-(aminocarbonyl)-3-methylphenyl)amino)(oxo)acetate as a white powder (1.85 g, 87%).

reactant | 2-amino-6-methylbenzamide | 8.52 mmol, 1.28 g | NC1=C(C(=O)N)C(=CC=C1)C | C8H10N2O
reactant | triethylamine | 10.2 mmol, 1.03 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 9.38 mmol, 1.28 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl ((2-(aminocarbonyl)-3-methylphenyl)amino)(oxo)acetate | 1.85 g, 87% | NC(=O)C1=C(C=CC=C1C)NC(C(=O)OCC)=O | C12H14N2O4
